US08012966B2
N-{3-[3-(4-Fluoro-phenyl)-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-5-yl}-2-methoxy-acetamide
The title compound was prepared under the same conditions as described in Example 46 with 3-(4-fluoro-phenyl)-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and 2-methoxy-N-(2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide as starting materials to give N-{3-[3-(4-fluoro-phenyl)-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-5-yl}-2-methoxy-acetamide (46 mg, 68.7%) as a red solid.

reactant | 3-(4-fluoro-phenyl)-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | FC1=CC=C(C=C1)C1=C(NC2=C1C(NCC2)=O)C=O | C14H11FN2O2
reactant | 2-methoxy-N-(2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | COCC(=O)NC=1C=C2CC(NC2=CC1)=O | C11H12N2O3
product | N-{3-[3-(4-fluoro-phenyl)-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-5-yl}-2-methoxy-acetamide | 46 mg, 68.7% | FC1=CC=C(C=C1)C1=C(NC2=C1C(NCC2)=O)C=C2C(NC1=CC=C(C=C21)NC(COC)=O)=O | C25H21FN4O4
